US04927838
As in Example 135, 1-butyl-7-methoxy-2-naphthalenecarboxylic acid (2.73 g) in tetrahydrofuran (15 ml) was treated with a solution of borane in tetrahydrofuran (1M; 22 mL) at 0°-5° C. and then mixture was stirred at room temperature overnight. The product was isolated in the usual manner and was crystallized from hexane to give 2.32 g of 1-butyl-7-methoxy-2-naphthalenemethanol, mp 52°-53° C. Anal. Calcd for C16H20O2 : C, 78.65; H, 8.25 Found: C, 78.50; H, 8.12

reactant | 1-butyl-7-methoxy-2-naphthalenecarboxylic acid | 2.73 g | C(CCC)C1=C(C=CC2=CC=C(C=C12)OC)C(=O)O | C16H18O3
reactant | borane | B | BH3
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1M, 22 mL | O1CCCC1 | C4H8O
product | 1-butyl-7-methoxy-2-naphthalenemethanol | 2.32 g | C(CCC)C1=C(C=CC2=CC=C(C=C12)OC)CO | C16H20O2
